US04038392
Methyl 3-bromomethyl-2-quinoxalinecarboxylate-1,4-dioxide
Methyl 3-methyl-2-quinoxalinecarboxylate-1,4-dioxide (1.2 moles) were suspended in 475 ml of dimethylformamide and 64 ml of bromine was added dropwise with stirring over 1.5 hours while the temperature rose to 42° C. After additional stirring for 48 hours 1.5 liters of methanol were added and stirred for about 1/2 hour. The precipitated product was removed by filtration, washed with water and dried. Yield, 251 grams (68%); m.p. 113°-16° C.

reactant | Methyl 3-methyl-2-quinoxalinecarboxylate-1,4-dioxide | 1.2 moles | CC1=C([N+](=C2C=CC=CC2=[N+]1[O-])[O-])C(=O)OC | C11H10N2O4
reactant | bromine | 64 ml | BrBr | Br2
reactant | methanol | 1.5 liters | CO | CH4O
solvent | dimethylformamide | 475 ml | CN(C=O)C | C3H7NO
product | Methyl 3-bromomethyl-2-quinoxalinecarboxylate-1,4-dioxide | BrCC1=C([N+](=C2C=CC=CC2=[N+]1[O-])[O-])C(=O)OC | C11H9BrN2O4
